data/oMe_Silver.jsonl
{"reaction_id": "NR-052_1-C(F)(F)F_2-C(F)(F)F_3-C(C)(C)C","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(C(F)(F)F)(C(F)(F)F)(C(C)(C)C)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(C(F)(F)F)(C(F)(F)F)(C(C)(C)C)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C(F)(F)F)(C(F)(F)F)(C(C)(C)C)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
{"reaction_id": "NR-113_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C(C)(C)C_3-C(F)(F)F_4-C_5-C(C)(C)C","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)#[N+][O-]","C(C)(C)C/C(C(F)(F)F)=C(/C)C(C)(C)C"],"products_smiles": ["C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=NOC(C)(C(C)(C)C)C1(C(C)(C)C)(C(F)(F)F)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=NOC(C)(C(C)(C)C)C1(C(C)(C)C)(C(F)(F)F)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
{"reaction_id": "NR-115_10-c1ccc(C(F)(F)F)cc1_1-C1CCCCC1_2-S(=O)(=O)c1ccccc1_3-C_4-c1ccccc1_5-c1ccc(F)cc1_6-F_7-c1ccccc1_8-c1ccccc1_9-C(C)C","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(C)C(O/C(=C(/F)c1ccccc1)/O[Si](c1ccccc1)(C(C)C)(c1ccc(C(F)(F)F)cc1))(c1ccc(F)cc1)c1ccccc1)(C1CCCCC1)S(=O)(=O)c1ccccc1"],"products_smiles": ["C(=C(C)C(C(C(=O)O[Si](c1ccccc1)(C(C)C)(c1ccc(C(F)(F)F)cc1))(c1ccccc1)F)(c1ccc(F)cc1)c1ccccc1)(C1CCCCC1)S(=O)(=O)c1ccccc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(C)C(C(C(=O)O[Si](c1ccccc1)(C(C)C)(c1ccc(C(F)(F)F)cc1))(c1ccccc1)F)(c1ccc(F)cc1)c1ccccc1)(C1CCCCC1)S(=O)(=O)c1ccccc1","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
